US06441017B1
Step C: Methyl 3-[1-(Triphenylmethyl)-1H-imidazol-4-yl]propionate
To a solution of methyl 3-(imidazol-4-yl)propionate hydrochloride, as described above in Step B, (20.2 g, 106 mmol) in dry CHCl3 (500 mL) were added triethylamine (44 mL, 318 mmol), then a solution of triphenylmethyl chloride (29.5 g, 106 mmol) in CHCl3 (100 mL). The mixture was stirred at ambient temperature for 18 hours, then washed with H2O (250 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to yield the product as a pale solid.

reactant | methyl 3-(imidazol-4-yl)propionate hydrochloride | Cl.N1C=NC(=C1)CCC(=O)OC
reactant | triethylamine | 318 mmol, 44 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 106 mmol, 29.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-[1-(Triphenylmethyl)-1H-imidazol-4-yl]propionate | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O2
